### PR TITLE
Add subset lemmas

### PR DESCRIPTION
**Pull request by FernandoChu**
##### Motivation for this change

Adds the missing lemmas from https://github.com/math-comp/math-comp/issues/619. However, I proved them in their `\subset` form, as that seems the most common interface now.

##### Things done/to do

- [X] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)
- [ ] added corresponding documentation in the headers
- [X] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) and make sure there is a milestone.

### CODE REVIEW

File: mathcomp/ssreflect/fintype.v [hunk 1]
```diff
@@ -740,6 +740,58 @@ Qed.
 Lemma subset_all s A : (s \subset A) = all [in A] s.
 Proof. exact: (sameP (subsetP _ _) allP). Qed.
 
+Lemma subset_cons s x:
+  s \subset x :: s.
+Proof. by apply/subsetP=> y; rewrite inE=> yins; rewrite yins orbT.
+Qed.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/fintype.v:746]: - No need to split the statement over two lines.
-  `rewrite inE`  can be put within the intro pattern to avoid interruptions.
- no need to name `yins` if you are going to rewrite everything with it just after, you can put it in the preceeding intropattern.
- you need to put spacing on both sides of `:` and `=>` (unless a tactic name comes before, e.g. `apply: x` and `move=> x` are valid, but one write `(x : T)` and `move/stuff => x`)
```suggestion
Lemma subset_cons s x : s \subset x :: s.
Proof. by apply/subsetP => y /[!inE] ->; rewrite orbT. Qed.
```

File: mathcomp/ssreflect/fintype.v [hunk 2]
```diff
@@ -740,6 +740,58 @@ Qed.
...
+  s \subset s ++ s'.
+Proof.
+by apply/subsetP=> x xins; rewrite mem_cat xins.
+Qed.
+
+Lemma subset_catr (s s': seq T):
+  s \subset s' ++ s.
+Proof.
+by apply/subsetP=> x xins; rewrite mem_cat xins; apply/orP; right.
+Qed.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/fintype.v:765]: - generally `apply/orP` can be replaced by an appropriate rewrite.

```suggestion
Lemma subset_catr s s' : s \subset s' ++ s.
Proof. by apply/subsetP => x xins; rewrite mem_cat xins orbT. Qed.
```

File: mathcomp/ssreflect/fintype.v [hunk 3]
```diff
@@ -740,6 +740,58 @@ Qed.
...
+
+Lemma subset_cat2 (s1 s2 s3: seq T):
+  s1 \subset s2 -> s3 ++ s1 \subset s3 ++ s2.
+Proof.
+move/subsetP=> ss1s2; apply /subsetP=> x; rewrite !mem_cat=> /orP-[xins3|xins1].
+  by apply/orP; left.
+by apply/orP; right; apply ss1s2.
+Qed.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/fintype.v:773]: - no need for the `-` after `orP`
- one can rewrite immediately after `orP` instead of naming the hypotheses
- please use `apply: H` instead of `apply H`) unless something goes wrong with it, in which case you should submit a bug report. (Note that `apply` without argument is also admissible).
```suggestion
Lemma subset_cat2 s1 s2 s3 : s1 \subset s2 -> s3 ++ s1 \subset s3 ++ s2.
Proof.
move=> /subsetP s12; apply/subsetP => x.
by rewrite !mem_cat => /orP[->|/s12->]; rewrite ?orbT.
Qed.
```

File: mathcomp/ssreflect/fintype.v [hunk 4]
```diff
@@ -740,6 +740,58 @@ Qed.
...
+
+Lemma filter_subset p s :
+  [seq a <- s | p a] \subset s.
+Proof.
+by apply/subsetP=> x; rewrite mem_filter => /andP-[px xins].
+Qed.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/fintype.v:779]: - No need for `-` after `andP` and no need to name the hypotheses `px` and `xins` since they are not used explicitly.
```suggestion
Lemma filter_subset p s : [seq a <- s | p a] \subset s.
Proof. by apply/subsetP=> x; rewrite mem_filter => /andP[]. Qed.
```

File: mathcomp/ssreflect/fintype.v [hunk 5]
```diff
@@ -740,6 +740,58 @@ Qed.
...
+
+Lemma subset_filter p (s1 s2 : seq T) :
+  s1 \subset s2 -> [seq a <- s1 | p a] \subset [seq a <- s2 | p a].
+Proof.
+move/subsetP=> ss1s2; apply/subsetP=> x; rewrite !mem_filter=> /andP-[px xins1].
+by apply/andP; split => //; apply ss1s2.
+Qed.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/fintype.v:786]: - No need to write down the types of `s1` and `s2`
- you can rewrite and apply (forward) `ss1s2` directly in the intro pattern after `andP` instead.

```suggestion

Lemma subset_filter p s1 s2 :
  s1 \subset s2 -> [seq a <- s1 | p a] \subset [seq a <- s2 | p a].
Proof.
by move/subsetP=> s12; apply/subsetP=> x; rewrite !mem_filter=> /andP[-> /s12].
Qed.
```

File: mathcomp/ssreflect/fintype.v [hunk 6]
```diff
@@ -740,6 +740,58 @@ Qed.
...
+
+Lemma map_subset {T' : eqType} s1 s2 (f : T -> T') :
+  s1 \subset s2 -> {subset [seq f x | x <- s1 ] <= [seq f x | x <- s2]}.
+Proof.
+move/subsetP=> ss1s2 x; move/mapP=> [y yins1] eqxfy; apply/mapP.
+by exists y=> //=; apply ss1s2.
+Qed.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/fintype.v:793]: - you can chain view applications in the same intro pattern instead of using `move/view` again:
```suggestion
Lemma map_subset {T' : eqType} s1 s2 (f : T -> T') :
  s1 \subset s2 -> {subset [seq f x | x <- s1 ] <= [seq f x | x <- s2]}.
Proof.
move=> /subsetP ss1s2 x /mapP[y yins1] eqxfy.
by apply/mapP; exists y => //; apply: ss1s2.
Qed.
```

**Review by CohenCyril — APPROVED** [review]
Thank you for your contribution. I rewrote several ingredients from your PR to conform them to the style of the library and optimized some proofs.
Note, though, that this does not subsume a similar work to be done on `{subset A <= B}` too since `A \subset B` works only for `finType` while  `{subset A <= B}` works for decidable predicates over a general `Type`.

**Comment by shiranaiyo** [comment]
Wow, thank you a lot for that in depth code review! I've learned a lot with it, I will try to write more closer to this in my future PRs. For now, I've applied all your sugestionss.

File: mathcomp/ssreflect/fintype.v [hunk 7]
```diff
@@ -740,6 +740,43 @@ Qed.
...
+Lemma subset_cat2 s1 s2 s3 : s1 \subset s2 -> s3 ++ s1 \subset s3 ++ s2.
+Proof.
+move=> /subsetP s12; apply/subsetP => x.
+by rewrite !mem_cat => /orP[->|/s12->]; rewrite ?orbT.
+Qed.
+
+Lemma filter_subset p s : [seq a <- s | p a] \subset s.
+Proof. by apply/subsetP=> x; rewrite mem_filter => /andP[]. Qed.
+
+
```
Comment (CohenCyril) [inline mathcomp/ssreflect/fintype.v:766]:
```suggestion
```

File: mathcomp/ssreflect/fintype.v [hunk 8]
```diff
@@ -740,6 +740,43 @@ Qed.
...
+Lemma subset_filter p s1 s2 :
+  s1 \subset s2 -> [seq a <- s1 | p a] \subset [seq a <- s2 | p a].
+Proof.
+by move/subsetP=> s12; apply/subsetP=> x; rewrite !mem_filter=> /andP[-> /s12].
+Qed.
+
+Lemma map_subset {T' : eqType} s1 s2 (f : T -> T') :
+  s1 \subset s2 -> {subset [seq f x | x <- s1 ] <= [seq f x | x <- s2]}.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/fintype.v:774]: I am a bit concerned about the fact this statement is heterogenous in terms of `\subset` and `{subset _ <= _}`, maybe it should be only about one of them  (`\subset` in this PR and specialized to `finType`) and be named `subset_map`?

**Review by CohenCyril — COMMENTED** [review]
I have a last comment.
@thery @pi8027 what do you think?

File: mathcomp/ssreflect/fintype.v (hunk 8 above)
Comment (FernandoChu) [reply mathcomp/ssreflect/fintype.v:773]: I assume you mean
```coq
Lemma subset_map {T' : finType} s1 s2 (f : T -> T') :
  s1 \subset s2 -> [seq f x | x <- s1 ] \subset [seq f x | x <- s2].
```
? If so, I apologize but I haven't been able to prove it, as `apply/subsetP` is not working on the goal for some reason, which I don't understand.

Comment (proux01) [reply mathcomp/ssreflect/fintype.v:773]: @FernandoChu that's because `subsetP` is defined for `T` which is a section variable, making it unapplicable for `T'` in the section. I guess you have to put the lemma after the end of the section.

**Comment by affeldt-aist** [comment]
@FernandoChu Could you rebase your PR so that we can merge? Thank you.

**Comment by FernandoChu** [comment]
@affeldt-aist No problem. I just (tried) to do that, though I'm not sure if this is right.

**Comment by affeldt-aist** [comment]
That looks ok. Let us just confirm that we can ignore the two failing checks @proux01 (they look like infrastructure problems).

**Comment by proux01** [comment]
@affeldt-aist Indeed, I just relaunched the job and CI is now green.
